US08003649B2
Hydroxylamine (50% w/v aqueous solution) (0.667 mL, 10.09 mmol) was added to a stirred suspension of 4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazine-1-carbonitrile (2.5 g, 8.41 mmol) in ethanol (16.82 mL) and the suspension was stirred at ambient temperature. Over 20 minutes the starting material largely dissolved and the product began to crystallise. The mixture was stirred for 2 hours and the precipitate was collected by filtration, washed with EtOH followed by ether and dried under vacuum to afford N-hydroxy-4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazine-1-carboximidamide (2.410 g, 87%) as a colourless crystalline solid.

reactant | Hydroxylamine | 10.09 mmol, 0.667 mL | NO | H3NO
reactant | 4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazine-1-carbonitrile | 8.41 mmol, 2.5 g | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C#N)(F)F | C11H10F3N7
solvent | ethanol | 16.82 mL | C(C)O | C2H6O
product | N-hydroxy-4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazine-1-carboximidamide | 2.410 g, 87% | ONC(=N)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C11H13F3N8O
